*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-102_freq port1 port2 PARAMS: Cpar=0.714pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=96
+ R2=0.14
+ C= {Cpar}
+ K1=0.0000845
+ K2=0.32
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3302.86755
.ends LPO3010-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-102_imp port1 port2 PARAMS: Cpar=0.553pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=96
+ R2=0.14
+ C= {Cpar}
+ K1=0.0000845
+ K2=0.32
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3302.86755
.ends LPO3010-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-122_freq port1 port2 PARAMS: Cpar=0.763pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=85
+ R2=0.16
+ C= {Cpar}
+ K1=0.00002
+ K2=0.4
+ K3= {Ind}
+ K4=0.036
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3975.75954
.ends LPO3010-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-122_imp port1 port2 PARAMS: Cpar=0.593pF Ind=1.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=85
+ R2=0.16
+ C= {Cpar}
+ K1=0.00002
+ K2=0.4
+ K3= {Ind}
+ K4=0.036
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3975.75954
.ends LPO3010-122_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-152_freq port1 port2 PARAMS: Cpar=0.756pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=93
+ R2=0.2
+ C= {Cpar}
+ K1=0.001
+ K2=0.6
+ K3= {Ind}
+ K4=0.044
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5099.65988
.ends LPO3010-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-152_imp port1 port2 PARAMS: Cpar=0.596pF Ind=1.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=93
+ R2=0.2
+ C= {Cpar}
+ K1=0.001
+ K2=0.6
+ K3= {Ind}
+ K4=0.044
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5099.65988
.ends LPO3010-152_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-222_freq port1 port2 PARAMS: Cpar=0.8pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.265
+ C= {Cpar}
+ K1=0.000371
+ K2=0.8
+ K3= {Ind}
+ K4=0.071
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6815.99008
.ends LPO3010-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-222_imp port1 port2 PARAMS: Cpar=0.618pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=80
+ R2=0.265
+ C= {Cpar}
+ K1=0.000371
+ K2=0.8
+ K3= {Ind}
+ K4=0.071
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6815.99008
.ends LPO3010-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-332_freq port1 port2 PARAMS: Cpar=0.834pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=65
+ R2=0.335
+ C= {Cpar}
+ K1=0.000579
+ K2=1.23
+ K3= {Ind}
+ K4=0.104
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9896.25054
.ends LPO3010-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-332_imp port1 port2 PARAMS: Cpar=0.654pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=65
+ R2=0.335
+ C= {Cpar}
+ K1=0.000579
+ K2=1.23
+ K3= {Ind}
+ K4=0.104
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9896.25054
.ends LPO3010-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-472_freq port1 port2 PARAMS: Cpar=0.978pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.57
+ C= {Cpar}
+ K1=0.000001
+ K2=1.78
+ K3= {Ind}
+ K4=0.126
+ K5=0.00000998
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13375.6897
.ends LPO3010-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-472_imp port1 port2 PARAMS: Cpar=0.805pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.57
+ C= {Cpar}
+ K1=0.000001
+ K2=1.78
+ K3= {Ind}
+ K4=0.126
+ K5=0.00000998
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13375.6897
.ends LPO3010-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-103_freq port1 port2 PARAMS: Cpar=0.804pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=1.15
+ C= {Cpar}
+ K1=0.000001
+ K2=3.55
+ K3= {Ind}
+ K4=0.104
+ K5=0.00000998
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24233.1561
.ends LPO3010-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-103_imp port1 port2 PARAMS: Cpar=0.751pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=1.15
+ C= {Cpar}
+ K1=0.000001
+ K2=3.55
+ K3= {Ind}
+ K4=0.104
+ K5=0.00000998
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24233.1561
.ends LPO3010-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-153_freq port1 port2 PARAMS: Cpar=1.12pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=38
+ R2=1.57
+ C= {Cpar}
+ K1=0.000001
+ K2=3.3
+ K3= {Ind}
+ K4=0.104
+ K5=0.00000992
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19578.784
.ends LPO3010-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-153_imp port1 port2 PARAMS: Cpar=1.074pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=38
+ R2=1.57
+ C= {Cpar}
+ K1=0.000001
+ K2=3.3
+ K3= {Ind}
+ K4=0.104
+ K5=0.00000992
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19578.784
.ends LPO3010-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-223_freq port1 port2 PARAMS: Cpar=1.05pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=2.2
+ C= {Cpar}
+ K1=0.000001
+ K2=3.65
+ K3= {Ind}
+ K4=0.104
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16145.4631
.ends LPO3010-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-223_imp port1 port2 PARAMS: Cpar=1.021pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=2.2
+ C= {Cpar}
+ K1=0.000001
+ K2=3.65
+ K3= {Ind}
+ K4=0.104
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16145.4631
.ends LPO3010-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
